US03976680
Methyl L-methioninate (+)-hemitartrate ([α]D + 29.8°, 5.914 g., 18.9 mmole) was stirred with 5N-sodium hydroxide solution [2.514 g., 62.8 mmole, 3.32 equiv. sodium hydroxide in water (12.5 ml.)]. Most of the hemitartrate dissolved immediately but after 8 minutes a solid had precipitated (disodium (+)-tartrate). After 1 hour 35 minutes the pH of the mixture was adjusted from 12.3 to 5.8 (the isoelectric point of methionine) with concentrated hydrochloric acid -- solid was present all the time. The mixture was cooled in ice, filtered, and the solid washed with water (2 × 3 ml.), and dried over phosphorus pentoxide giving L-methionine (1.928 g., 68%), m.p. decomp. 210 to 215°, darkening began at 225° but the sample did not melt below 320°. An authentic sample of L-methionine decomposed at 225° to 230°, darkening and shrinking occurred at 230° but the sample did not melt below 330°, [α]D22 + 21.7° (c 1.007, 1N-HCl) -- 4 dm. tube, and [α]D22 + 21.4° (c 1.021, 1N-HCl) -- 1 dm. tube.

reactant | Methyl L-methioninate | 18.9 mmole, 5.914 g | N[C@@H](CCSC)C(=O)OC | C6H13NO2S
reactant | sodium hydroxide | 62.8 mmole, 12.5 ml, 2.514 g, 3.32 equiv. | [OH-].[Na+]
product | L-methionine | 1.928 g, 68% | N[C@@H](CCSC)C(=O)O | C5H11NO2S
